US04902599
3-1. Synthesis of 2-Chloro-5-Methanesulfonylbenzenesulfonyl Chloride (HD-39a)
To 300 ml (4.53 mol) of chlorosulfonic acid was added 300 g (1.57 mol) of 4-methanesulfonylchlorobenzene at room temperature while stirring. The mixture was heated to 120° C., at which stirring was continued for 16 hours. After cooling, the reaction mixture was poured into ice-water, and the resulting crystals were collected by filtration and air-dried to obtain 293 g (yield: 64%) of HD-39a.

reactant | chlorosulfonic acid | 4.53 mol, 300 ml | ClS(=O)(=O)O | ClHO3S
reactant | 4-methanesulfonylchlorobenzene | 1.57 mol, 300 g | CS(=O)(=O)C1=CC=C(C=C1)Cl | C7H7ClO2S
product | 2-Chloro-5-Methanesulfonylbenzenesulfonyl Chloride | yield: 64% | ClC1=C(C=C(C=C1)S(=O)(=O)C)S(=O)(=O)Cl | C7H6Cl2O4S2
